US04186135
396 g of methanol were introduced into a balloon flask provided with a condenser and then 51 g of sulfuric acid and 114.5 g of 8-methoxy-7-sulfamoyl-1,4-benzodioxane-5-carboxylic acid were added while cooling. The mixture was heated under reflux and then poured into 485 cm3 of water and 40 g of sodium carbonate. The precipitate was dried off, washed and dried. 110.5 g of methyl-8-methoxy-7-sulfamoyl-1,4-benzodioxane-5-carboxylate were obtained (M.P.: 202°-203° C.; yield: 92%).

reactant | methanol | 396 g | CO | CH4O
reactant | sulfuric acid | 51 g | S(O)(O)(=O)=O | H2O4S
reactant | 8-methoxy-7-sulfamoyl-1,4-benzodioxane-5-carboxylic acid | 114.5 g | COC1=C(C=C(C2=C1OCCO2)C(=O)O)S(N)(=O)=O | C10H11NO7S
reactant | sodium carbonate | 40 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 485 cm3 | O | H2O
product | methyl-8-methoxy-7-sulfamoyl-1,4-benzodioxane-5-carboxylate | 110.5 g, yield: 92% | COC(=O)C1=CC(=C(C=2OCCOC21)OC)S(N)(=O)=O | C11H13NO7S
